US07560558B2
Carbon disulfide (35 ml) was added to benzoyl chloride (7.3 g) and anhydrous aluminum chloride (7.0 g) under an argon atmosphere, and a solution of 2,3-dimethylfuran (5.0 g) in carbon disulfide (35 ml) was added dropwise thereto at 10° C. The mixture was then stirred for 30 min while raising the temperature to room temperature. 10% Hydrochloric acid (200 ml) was added to the reaction solution, and the mixture was extracted with dichloromethane. The dichloromethane layer was then washed with water and a 5% aqueous sodium bicarbonate solution and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-ethyl acetate to give (4,5-dimethylfuran-2-yl)-phenyl-methanone (2.5 g, yield 25%).

reactant | benzoyl chloride | 7.3 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | 7.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,3-dimethylfuran | 5.0 g | CC=1OC=CC1C | C6H8O
reactant | Hydrochloric acid | 200 ml | Cl | ClH
solvent | carbon disulfide | 35 ml | C(=S)=S | CS2
solvent | Carbon disulfide | 35 ml | C(=S)=S | CS2
product | (4,5-dimethylfuran-2-yl)-phenyl-methanone | 2.5 g, yield 25% | CC=1C=C(OC1C)C(=O)C1=CC=CC=C1 | C13H12O2
